US04533676
2.99 g (0.015 mol) of 2-chloro-5-fluoro-benzoyl isocyanate are added to 2.66 g (0.015 mol) of 4-trifluoromethoxyaniline in 30 ml of dry toluene, at 60° C., in the absence of moisture. The mixture is stirred for one hour at 80° C. and cooled to 20°-25° C. The precipitated product is filtered off under suction and dried in vacuo at 100° C. 5.6 g (100% of theory) of 1-(2-chloro-5-fluoro-benzoyl)-3-(4-trifluoromethoxyphenyl)-urea of melting point 199° C. are obtained.

reactant | 2-chloro-5-fluoro-benzoyl isocyanate | 0.015 mol, 2.99 g | ClC1=C(C(=O)N=C=O)C=C(C=C1)F | C8H3ClFNO2
reactant | 4-trifluoromethoxyaniline | 0.015 mol, 2.66 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-5-fluoro-benzoyl)-3-(4-trifluoromethoxyphenyl)-urea | 5.6 g, 100% | ClC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C(C=C1)F | C15H9ClF4N2O3
